US09422240B2
Methyl (3R)-3-amino-4-hydroxybutanoate hydrochloride
To a solution of L-β-homoserine (1.00 g) in methanol (8.4 mL), a 4 mol/L hydrogen chloride-1,4-dioxane solution (8.4 mL) was added and thereafter the mixture was stirred at 60° C. for 3 hours. The reaction mixture was concentrated under reduced pressure to give the titled compound as a pale yellow oil (1.42 g).

reactant | L-β-homoserine | 1.00 g | N[C@@H](CO)CC(=O)O | C4H9NO3
reactant | hydrogen chloride-1,4-dioxane | 4 mol/L, 8.4 mL | O1CCOCC1.Cl
solvent | methanol | 8.4 mL | CO | CH4O
product | Methyl (3R)-3-amino-4-hydroxybutanoate hydrochloride | 1.42 g | Cl.N[C@H](CC(=O)OC)CO | InChI=1S/C5H11NO3.ClH/c1-9-5(8)2-4(6)3-7;/h4,7H,2-3,6H2,1H3;1H/t4-;/m1./s1
